US05434186
Preparation of 3-(2-Carboxyethyl)-4-[5-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]pentyloxy]-γ-oxobenzenebutanoic Acid
Starting with 0.156 g (0.76 mmol) of 2,3-dihydro-7-hydroxy-8-propyl-4H-1-benzopyran-4-one, and 0.357 g (0.76 mmol) of 4-[(5-bromopentyl)oxy]-3-(3-ethoxy-3-oxopropyl)-γ-oxobenzenebutanoic acid ethyl ester, the title compound (0.237 g; 63.8% overall yield) was obtained as a white solid, mp 181.5°-184° C. (recrystallized from ethanol-ethyl acetate), using the procedure of example 22.

reactant | 2,3-dihydro-7-hydroxy-8-propyl-4H-1-benzopyran-4-one | 0.76 mmol, 0.156 g | OC1=C(C2=C(C(CCO2)=O)C=C1)CCC | C12H14O3
reactant | 4-[(5-bromopentyl)oxy]-3-(3-ethoxy-3-oxopropyl)-γ-oxobenzenebutanoic acid ethyl ester | 0.76 mmol, 0.357 g | C(C)OC(CCC(C1=CC(=C(C=C1)OCCCCCBr)CCC(=O)OCC)=O)=O | C22H31BrO6
solvent | ethanol ethyl acetate | C(C)O.C(C)(=O)OCC
product | 3-(2-Carboxyethyl)-4-[5-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]pentyloxy]-γ-oxobenzenebutanoic Acid | 0.237 g, 63.8% | C(=O)(O)CCC=1C=C(C=CC1OCCCCCOC1=C(C2=C(C(CCO2)=O)C=C1)CCC)C(CCC(=O)O)=O | C30H36O9
